US06172228B2
Thionyl chloride (10.3 ml, 140.4 mmol) and N,N-dimethylformamide (one drop) were added to sodium 6-bromohexanesulfonate (5.00 g, 18.7 mmol) prepared by a process described in Org. Synth., Coll. Vol. II, 558 or WO95/19345 Pamphlet. The mixture was refluxed for 4 hours. The reaction mixture was concentrated in vacuo. The concentrate was diluted with benzene (50 ml). The resulting solution was washed twice with water (15 ml) and then with brine (10 ml), and thereafter dried over calcium chloride. The solvent was removed by evaporation in vacuo. Crude 6-bromohexanesulfonyl chloride (1.61 g) was obtained as a pale yellow oil.

reactant | Thionyl chloride | 140.4 mmol, 10.3 ml | S(=O)(Cl)Cl | Cl2OS
reactant | sodium 6-bromohexanesulfonate | 18.7 mmol, 5.00 g | BrCCCCCCS(=O)(=O)[O-].[Na+]
catalyst | N,N-dimethylformamide | one drop | CN(C=O)C | C3H7NO
product | 6-bromohexanesulfonyl chloride | 1.61 g | BrCCCCCCS(=O)(=O)Cl | C6H12BrClO2S
